US07008939B2
Liquid Oral Administration Form as a Combination with Naloxone
23.82 g tilidine HCl ½ H2O and 2.04 g naloxone HCl 2H2O are dissolved in 874 ml purified water, 124 ml ethanol (96%) and 2 ml HCl at room temperature.

reactant | tilidine HCl | 23.82 g | CCOC(=O)C1(CCC=CC1N(C)C)C=2C=CC=CC2.Cl
reactant | naloxone HCl | 2.04 g | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.Cl
solvent | H2O | O | H2O
product | Naloxone | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C19H21NO4
